US08895740B2
3-(6-chloropyridin-2-yl)-1H-pyrazolo[3,4-b]pyrazine
To a solution of (6-chloro-2-pyridyl)-(3-fluoropyrazin-2-yl)methanone (1.12 g, 4.713 mmol) in THF (10 mL) was added hydrazine (1M in THF) (9.897 mL of 1 M, 9.897 mmol). Mixture turned orange and an exothermic reaction occurred, cream precipitate rapidly formed and mixture became difficult to stir. Stirred for 45 mins. Added sat. NaHCO3 solution and collected solid by filtration, washing solid with water then petrol. Solid then dried in vacuum oven overnight at 80° C. to leave title compound as an off-white solid (693 mg, 64%). 1H NMR (DMSO-d6) δ 7.58 (d, 1H), 8.07 (t, 1H), 8.52 (d, 1H), 8.70 (d, 1H), 8.80 (d, 1H), 14.55 (br s, 1H). ES+232.13.

reactant | (6-chloro-2-pyridyl)-(3-fluoropyrazin-2-yl)methanone | 4.713 mmol, 1.12 g | ClC1=CC=CC(=N1)C(=O)C1=NC=CN=C1F | C10H5ClFN3O
reactant | hydrazine | 9.897 mmol, 1M, 9.897 mL | NN | H4N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(6-chloropyridin-2-yl)-1H-pyrazolo[3,4-b]pyrazine | 693 mg, 64% | ClC1=CC=CC(=N1)C1=NNC2=NC=CN=C21 | C10H6ClN5
